US09226922B2
(S)-2-(2-hydroxy-1-phenylethyl)isoindoline-1,3-dione (1.06 g, 3.97 mmol) was dissolved in anhydrous acetonitrile (20 ml), charged with copper (I) iodide (1.133 g, 5.95 mmol), 2,2-difluoro-2-(fluorosulfonyl)acetic acid (0.615 ml, 5.95 mmol), degassed under nitrogen and heated to 80° C. The solution was allowed to stir at 80° C. for 1 hr. The reaction was cooled in an ice bath, quenched with 5 mL water, filtered through a 10 g celite cartridge, and the solvents were removed in vacuo. The residue was purified by MPLC 10-50% EtOAc/hexanes to provide (S)-2-(2-(difluoromethoxy)-1-phenylethyl)isoindoline-1,3-dione. MS: [M+H]+ m/z 318.

reactant | (S)-2-(2-hydroxy-1-phenylethyl)isoindoline-1,3-dione | 3.97 mmol, 1.06 g | OC[C@H](C1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C16H13NO3
reactant | 2,2-difluoro-2-(fluorosulfonyl)acetic acid | 5.95 mmol, 0.615 ml | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | copper (I) iodide | 5.95 mmol, 1.133 g | [Cu]I
product | (S)-2-(2-(difluoromethoxy)-1-phenylethyl)isoindoline-1,3-dione | FC(OC[C@H](C1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O)F | C17H13F2NO3
